US09284331B2
2-(1-methyl-3,4-dihydroisoquinolin-5-yl)propan-2-ol
1-(1-methyl-3,4-dihydroisoquinolin-5-yl)ethanone. A solution of 5-iodo-1-methyl-3,4-dihydroisoquinoline (2.0 g, 7.38 mmol), Pd(OAc)2 (41 mg, 0.184 mmol) and DPPP (85 mg, 0.207 mmol) in dry DMSO (15 mL) was degassed, and butylvinyl ether (4.80 mL, 36.9 mmol) and Et3N (1.24 mL, 8.85 mmol) were then added in succession. The reaction was heated to 100° C. for 18 h, and then allowed to cool to RT. The mixture was diluted with Et2O and washed with H2O. The organic phase was then dried over Na2SO4, filtered and concentrated in vacuo to give a brown oil that was taken up in THF (50 mL) and treated with a 2N aq. solution of HCl (25 mL). The mixture was stirred at RT for 4 h, and then diluted with AcOEt and washed with H2O. The aq. phase was then neutralized and rendered basic by adding Na2CO3, and then extracted with AcOEt. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, DCM to DCM/MeOH 9:1) to provide the title compound (1.06 g) as a brown oil, which was used as it is in the next step. UPLC-MS: MS 188.0 (M+H+); UPLC rt 0.45 min.

reactant | 1-(1-methyl-3,4-dihydroisoquinolin-5-yl)ethanone | CC1=NCCC2=C(C=CC=C12)C(C)=O | C12H13NO
reactant | 5-iodo-1-methyl-3,4-dihydroisoquinoline | 7.38 mmol, 2.0 g | IC1=C2CCN=C(C2=CC=C1)C | C10H10IN
reactant | butylvinyl ether | 36.9 mmol, 4.80 mL | C(CCC)OC=C | C6H12O
reactant | Et3N | 8.85 mmol, 1.24 mL | CCN(CC)CC | C6H15N
reactant | HCl | 25 mL | Cl | ClH
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.184 mmol, 41 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPP | 0.207 mmol, 85 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
product | 2-(1-methyl-3,4-dihydroisoquinolin-5-yl)propan-2-ol | 1.06 g | CC1=NCCC2=C(C=CC=C12)C(C)(C)O | C13H17NO
